US07217711B2
2-(4-tert.-butyloxycarbonyl-piperazin-1-yl)-3-(2-butyn-1-yl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one
A mixture of 2.11 g of 2-bromo-3-(2-butyn-1-yl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one, 1.64 g potassium carbonate and 1.91 g 1-tert.-butyloxycarbonyl-piperazine in 20 ml N,N-dimethylformamide is stirred for six hours at 80° C. After cooling to ambient temperature the reaction mixture is combined with water and the precipitate formed is suction filtered. The crude product is purified by chromatography over a silica gel column with methylene chloride/methanol (95:5 to 90:10).

reactant | 2-bromo-3-(2-butyn-1-yl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | 2.11 g | BrC=1N(C2=C(C=NNC2=O)N1)CC#CC | C9H7BrN4O
reactant | potassium carbonate | 1.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-tert.-butyloxycarbonyl-piperazine | 1.91 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(4-tert.-butyloxycarbonyl-piperazin-1-yl)-3-(2-butyn-1-yl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N(C2=C(C=NNC2=O)N1)CC#CC | C18H24N6O3
